US05278244
4e) 4-[N,N-bis(trimethylsilyl)amino]styrene
To a solution of ethylmagnesium bromide in THF (0.6M, 150 mL) was added dropwise 4-[N-(trimethylsilyl)amino]styrene (8.4 g, 44 mmole) with stirring. The mixture was stirred at 40° C. for 16 hours. To the resulting solution was added trimethylsilylchloride (13 g, 120 mmole)and the mixture stirred at room temperature for 6 hours. By fractional distillation, a product was isolated at 45°-48° C./0.32 mm in 55% yield. The product was confirmed by spectral analysis to be the desired compound.

reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | 4-[N-(trimethylsilyl)amino]styrene | 44 mmole, 8.4 g | C[Si](NC1=CC=C(C=C)C=C1)(C)C | C11H17NSi
reactant | trimethylsilylchloride | 120 mmole, 13 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 0.6M, 150 mL | C1CCOC1 | C4H8O
product | 4-[N,N-bis(trimethylsilyl)amino]styrene | 55% yield | C[Si](N([Si](C)(C)C)C1=CC=C(C=C)C=C1)(C)C | C14H25NSi2
